US07244726B2
7-{1-[2-(2-Methylquinolin-5-yloxy)ethyl]piperidin-4-yloxy}-3,4-dihydro-1H-quinolin-2-one (E8)
7-(Piperidin-4-yloxy)-3,4-dihydro-1H-quinolin-2-one (0.064 g, 0.25 mmol) and 5-(2-bromoethoxy)-2-methylquinoline (0.069 g, 0.25 mmol) were mixed together in propan-2-ol (20 mL), N,N-diisopropylethylamine (0.336 g, 2.6 mmol) added and the mixture heated at reflux for 48 h. The volatiles were removed by evaporation to dryness under reduced pressure and the residue partitioned between ethyl acetate and saturated NaHCO3 aq. The phases were separated, the organic phase washed with water, dried (MgSO4) and evaporated to dryness under reduced pressure. Chromatography on SiO2, eluting with a gradient of ethyl acetate in 60–80° C. petroleum ether, gave the title compound (0.05 g, 45%) as a white solid, after trituration under 60–80° C. petroleum ether.

reactant | 7-(Piperidin-4-yloxy)-3,4-dihydro-1H-quinolin-2-one | 0.25 mmol, 0.064 g | N1CCC(CC1)OC1=CC=C2CCC(NC2=C1)=O | C14H18N2O2
reactant | 5-(2-bromoethoxy)-2-methylquinoline | 0.25 mmol, 0.069 g | BrCCOC1=C2C=CC(=NC2=CC=C1)C | C12H12BrNO
reactant | N,N-diisopropylethylamine | 2.6 mmol, 0.336 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propan-2-ol | 20 mL | CC(C)O | C3H8O
product | 7-{1-[2-(2-Methylquinolin-5-yloxy)ethyl]piperidin-4-yloxy}-3,4-dihydro-1H-quinolin-2-one | 0.05 g, 45% | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCC(CC1)OC1=CC=C2CCC(NC2=C1)=O | C26H29N3O3
